US09428528B2
Step 2 Preparation of C-(5-Bromo-benzothiazol-2-yl)-methylamine
Gaseous ammonia is bubbled through a solution of 5-Bromo-2-bromomethyl-benzothiazole (0.850 g, 2.768 mmol) in methanol (16 mL) for 10 minutes at 0° C. then stirred at room temperature for 3 hours. The reaction mixture is dried over magnesium sulfate, filtered and the solvent is evaporated in vacuo. The crude material is washed with n-pentane and hexane to afford the title compound (0.78 g). 1H NMR (400 MHz, DMSO-d6) δ: 4.52 (s, 2H), 7.69-7.72 (dd, J1=1.96 Hz, J2=8.68 Hz, 1H), 7.95 (d, J=8.64 Hz, 1H), 8.46 (d, J=1.96 Hz, 1H). LC-MS (m/z): [M+H]=245.0.

reactant | ammonia | N | H3N
reactant | 5-Bromo-2-bromomethyl-benzothiazole | 2.768 mmol, 0.850 g | BrC=1C=CC2=C(N=C(S2)CBr)C1 | C8H5Br2NS
solvent | methanol | 16 mL | CO | CH4O
product | C-(5-Bromo-benzothiazol-2-yl)-methylamine | 0.78 g | BrC=1C=CC2=C(N=C(S2)CN)C1 | C8H7BrN2S
